US07456293B2
Step D: Preparation of 2-[2,5-bis(trifluoromethyl)-1H-benzimidazol-1-yl]ethyl methanesulfonate
To a stirred solution of 2-[2,5-bis(trifluoromethyl)-1H-benzimidazol-1-yl]ethanol (5.36 g, 17 mmol) in CH2Cl2 (15 ml), Et3N (5.0 ml, 36 mmol) was added and cooled to 0° C. To the cooled solution, methanesulfonyl chloride (1.53 ml, 19.8 mmol) was added slowly.

reactant | 2-[2,5-bis(trifluoromethyl)-1H-benzimidazol-1-yl]ethanol | 17 mmol, 5.36 g | FC(C1=NC2=C(N1CCO)C=CC(=C2)C(F)(F)F)(F)F | C11H8F6N2O
reactant | Et3N | 36 mmol, 5.0 ml | CCN(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 19.8 mmol, 1.53 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-[2,5-bis(trifluoromethyl)-1H-benzimidazol-1-yl]ethyl methanesulfonate | CS(=O)(=O)OCCN1C(=NC2=C1C=CC(=C2)C(F)(F)F)C(F)(F)F | C12H10F6N2O3S
